US07737176B2
Step a): 1-(2-isobutoxy-5-methoxyphenyl)ethanone
A mixture of 10 g (0.06 mol) of 2′-hydroxy-5′-methoxyacetophenone, 2.6 g (0.066 mol) of 60% sodium hydride and 150 ml of dimethylformamide is heated for one hour at 80° C. 7.2 ml (0.066 mol) of 1-bromo-2-methylpropane are added dropwise. The mixture is heated for ten hours at 80° C. and is then poured into ice-water and extracted with ether. The ether solution is washed with normal sodium hydroxide solution. The dried (Na2SO4) organic phase is evaporated under reduced pressure (8.2 g; 62%).

reactant | 2′-hydroxy-5′-methoxyacetophenone | 0.06 mol, 10 g | OC1=C(C=C(C=C1)OC)C(C)=O | C9H10O3
reactant | sodium hydride | 0.066 mol, 2.6 g | [H-].[Na+]
reactant | 1-bromo-2-methylpropane | 0.066 mol, 7.2 ml | BrCC(C)C | C4H9Br
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-(2-isobutoxy-5-methoxyphenyl)ethanone | C(C(C)C)OC1=C(C=C(C=C1)OC)C(C)=O | C13H18O3
